US07812051B2
Preparation of 2-{[(9H-fluoren-9-ylmethoxy)carbonyl]amino}ethyl 4-{[(6Z)-2,2-dimethyl-5-oxo-3,4-dihydro-2H-benzo[h]chromen-6 (5H)-ylidene]amino}benzoate
A solution of 2,2-dimethyl-3,4-dihydro-2H-benzo[h]chromene-5,6-dione (2.975 g, 12.3 mmoles) in 120 ml of methylene chloride is treated with 6.14 ml of a 1.0 M solution of TiCl4 in methylene chloride. The mixture is stirred at room temperature for 5 minutes, then a solution of 2-{[(9H-fluoren-9-ylmethoxy)carbonyl]amino}ethyl 4-aminobenzoate (5.436 g, 13.5 mmoles) in 60 ml of methylene chloride is introduced followed by triethylamine (10.3 ml, 73.7 mmoles). The mixture is stirred at room temperature for 10 minutes. A second portion of 6.14 ml of a 1.0 M solution of TiCl4 in methylene chloride is added and the mixture is stirred at room temperature for 10 minutes. A third portion of 6.14 ml of a 1.0 M solution of TiCl4 in methylene chloride is added and the mixture is stirred at room temperature for 15 minutes. After stirring with the third aliquot of TiCl4, the mixture is poured onto 300 ml of ice, to form a mixture having a precipitate. The mixture is filtered to remove the precipitate and the organic and aqueous phases are then separated. The aqueous phase is extracted with two portions of 200 ml of methylene chloride. The combined organic extracts are dried with Na2SO4, filtered and concentrated in vacuo, giving a brown oil. Purification on silica gel using a gradient of 0-10% ethyl acetate in methylene chloride provided a brown reddish foam, which is triturated in diethyl ether, yielding 990 mg (13%) of the title compound as a brown solid. M.p.: 163-164° C. 400 MHz 1H NMR (DMSO-d6) δ: 8.13 (d, J=7.3 Hz, 1H), 7.93 (d, J=8.4 Hz, 2H), 7.88 (d, J=7.7 Hz, 2H), 7.82 (d, J=8.1 Hz, 1H), 7.7-7.55 (m, 5H), 7.40 (t, J=7.5 Hz, 2H), 7.30 (t, J=7.5 Hz, 2H), 6.79 (d, J=8.4 Hz, 2H), 4.33 (d, J=7.0 Hz, 2H), 4.3-4.2 (m, 3H), 3.45-3.35 (m, 2H), 2.25 (t, J=6.4 Hz, 2H), 1.79 (t, J=6.4 Hz, 2H), 1.41 (s, 6H). LCMS: 627 [M+H]. Calc. for C39H34N2O6.0.1 water: C, 74.46; H, 5.48; N, 4.46; Found C, 74.48; H, 5.06; N, 4.43.

reactant | 2,2-dimethyl-3,4-dihydro-2H-benzo[h]chromene-5,6-dione | 12.3 mmoles, 2.975 g | CC1(OC=2C3=C(C(C(C2CC1)=O)=O)C=CC=C3)C | C15H14O3
reactant | 2-{[(9H-fluoren-9-ylmethoxy)carbonyl]amino}ethyl 4-aminobenzoate | 13.5 mmoles, 5.436 g | NC1=CC=C(C(=O)OCCNC(=O)OCC2C3=CC=CC=C3C=3C=CC=CC23)C=C1 | C24H22N2O4
reactant | triethylamine | 73.7 mmoles, 10.3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
product | 2-{[(9H-fluoren-9-ylmethoxy)carbonyl]amino}ethyl 4-{[(6Z)-2,2-dimethyl-5-oxo-3,4-dihydro-2H-benzo[h]chromen-6 (5H)-ylidene]amino}benzoate | 990 mg, 13% | CC1(OC=2C3=C(/C(/C(C2CC1)=O)=N/C1=CC=C(C(=O)OCCNC(=O)OCC2C4=CC=CC=C4C=4C=CC=CC24)C=C1)C=CC=C3)C | C39H34N2O6
